US07659287B2
Preparation of (S)-N-cyclopropyl-N-[1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl]-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide
A solution of (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide prepared above in step c in Example 1 (73 mg, 0.20 mmol, 1.0 equiv.), tetrahydro-4H-pyran-4-one (65 μL, 7.0 mmol, 3.5 equiv.) and AcOH (23 μL, 0.40 mmol, 2 equiv.) in 1,2-dichloroethane/THF (2/1, 1.5 mL) was treated with NaBH(OAc)3 (210 mg, 1.00 mmol, 5.0 equiv.). After being stirred for 48 h at 75° C., the reaction was diluted (EtOAc) and washed (1×1 N aqueous NaOH, and 1× brine). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification of the residue by flash chromatography (SiO2, 0-10% MeOH/CH2Cl2, gradient elution) gave the title compound as a white solid: 1H NMR (CDCl3, 500 MHz) δ 7.58 (d, J=8.3 Hz, 2H), 7.48 (d, J=8.4 Hz, 2H), 4.26-4.20 (m, 1H), 4.06-4.02 (m, 2H), 3.40-3.35 (m, 2H), 3.14-3.07 (m, 2H), 2.55-2.52 (m, 2H), 2.48 (s, br, 1H), 2.39-2.35 (m, 2H), 2.16-2.07 (m, 2H), 1.99-1.93 (m, 2H), 1.79 (s, 3H), 1.80-1.73 (m, 2H), 1.65-1.60 (m, 2H), 0.58-0.53 (m, 2H), 0.47-0.42 (m, 2H); MS(ESI) 441 [M+H]+.

reactant | (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCNCC1 | C18H23F3N2O2
reactant | tetrahydro-4H-pyran-4-one | 7.0 mmol, 65 μL, 3.5 equiv. | O1CCC(CC1)=O | C5H8O2
reactant | AcOH | 0.40 mmol, 23 μL, 2 equiv. | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.00 mmol, 210 mg, 5.0 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane THF | 1.5 mL | ClCCCl.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-N-cyclopropyl-N-[1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl]-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCN(CC1)C1CCOCC1 | C23H31F3N2O3
